US05817693
(1RS,2SR,3RS)-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indan-2-ylacetic acid
(1RS,2SR,3RS)-3-(4-Methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid. A solution of methyl(1RS,2RS,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (2.42 g, 4.6 mmol) in isopropyl alcohol (30 ml) with aqueous NaOH (8 ml of 5N solution) was refluxed for 4 h. The resultant mixture was partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O then brine, dried (Na2SO4) and solvent removed in vacuo to afford the title compound as a colorless oil (1.98 g, 84%).

reactant | (1RS,2SR,3RS)-3-(4-Methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O)OCOC | C29H30O8
reactant | methyl(1RS,2RS,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 4.6 mmol, 2.42 g | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)OCOC | C30H32O8
reactant | NaOH | 5N, 8 ml | [OH-].[Na+]
reactant | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | (1RS,2SR,3RS)-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indan-2-ylacetic acid | 1.98 g, 84% | C(=O)(O)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC(=O)O | C30H30O9
